US04645765
To a suspension of sodium hydride (60% in oil, 4 mg) in tetrahydrofuran (0.5 ml) was added a solution of B-isomer of 8-carbamoyloxymethyl-4-dimethoxymethyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-6,9-diyl diacetate (20 mg) in tetrahydrofuran (2.0 mg) in an ice-water bath. To this solution was added methyl iodide (0.4 ml) in an ice-water bath. After stirring for 3 hours at ambient temperature, acetic acid (0.1 ml) was added to the reaction mixture in an ice-water bath. The resultant mixture was evaporated in vacuo and the residual oil was subjected to preparative thin layer chromatography, which was developed with a mixture of chloroform and methanol (8:1, v/v) to afford 8-carbamoyloxymethyl-4-dimethoxymethyl-11-methyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-6,9-diyl diacetate (11 mg).

reactant | sodium hydride | 4 mg | [H-].[Na+]
reactant | 8-carbamoyloxymethyl-4-dimethoxymethyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-6,9-diyl diacetate | 20 mg | C(C)(=O)OC=1C=C(C=C2N3CC4NC4C(C(C12)COC(N)=O)(O3)OC(C)=O)C(OC)OC | C20H25N3O9
reactant | methyl iodide | 0.4 ml | CI | CH3I
reactant | acetic acid | 0.1 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.0 mg | O1CCCC1 | C4H8O
product | 8-carbamoyloxymethyl-4-dimethoxymethyl-11-methyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-6,9-diyl diacetate | 11 mg | C(C)(=O)OC=1C=C(C=C2N3CC4N(C4C(C(C12)COC(N)=O)(O3)OC(C)=O)C)C(OC)OC | C21H27N3O9
